US04259504
2-[1-(p-Chlorophenyl)-1H-1,2,4-triazol-5yl]pyrazine
To a solution of 12.1 g. of 4-chlorophenylhydrazine hydrochloride in a mixture of 13.5 ml. of 5 N sodium hydroxide, 100 ml. of 30% aqueous acetic acid and 50 ml. of p-dioxane is added 10.0 g. of N-(dimethylaminomethylene)pyrazinecarboxamide. The procedure of Example 2 is then followed giving 3.8 g. of the desired product as tan crystals, mp. 129°-131° C.

reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | N-(dimethylaminomethylene)pyrazinecarboxamide | CN(C)C=NC(=O)C1=NC=CN=C1 | C8H10N4O
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 2-[1-(p-Chlorophenyl)-1H-1,2,4-triazol-5yl]pyrazine | ClC1=CC=C(C=C1)N1N=CN=C1C1=NC=CN=C1 | C12H8ClN5
